US06924400B2
(h) 2-Benzoyloxymethyl-5-[(6,2′-dimethyl-4′-propionylbiphenyl-3-ylamino)methyl]benzyl benzoate
1 g (1.4 mmol) of 2-benzoyloxymethyl-5-{[tert-butoxycarbonyl(6,2′-dimethyl-4′-propionyl-biphenyl-3-yl)amino]methyl}benzyl benzoate are dissolved in 50 ml of dichloromethane. 1,1 ml (14 mmol) of trifluoroacetic acid are added and the medium is stirred at room temperature for 6 hours. After extraction with water/dichloromethane, the desired product is obtained in the form of a yellowish oil (m=820 mg, Y=95%).

reactant | 2-benzoyloxymethyl-5-{[tert-butoxycarbonyl(6,2′-dimethyl-4′-propionyl-biphenyl-3-yl)amino]methyl}benzyl benzoate | 1.4 mmol, 1 g | C(C1=CC=CC=C1)(=O)OCC1=C(C=CC(=C1)CN(C=1C=C(C(=CC1)C)C1=C(C=C(C=C1)C(CC)=O)C)C(=O)OC(C)(C)C)COC(C1=CC=CC=C1)=O | C45H45NO7
reactant | trifluoroacetic acid | 14 mmol, 1,1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-Benzoyloxymethyl-5-[(6,2′-dimethyl-4′-propionylbiphenyl-3-ylamino)methyl]benzyl benzoate | C(C1=CC=CC=C1)(=O)OCC1=C(C=CC(=C1)CNC=1C=C(C(=CC1)C)C1=C(C=C(C=C1)C(CC)=O)C)COC(C1=CC=CC=C1)=O | C40H37NO5
